US07405224B2
a) methyl xanthene-9-carboxylate
A sodium ethoxide solution is prepared from 21.75 g (0.95 mol) of sodium and 1500 mL of ethanol. 214 g (0.95 mol) of xanthene-9-carboxylic acid is added batchwise to this solution and the suspension obtained is stirred for 1 hour at ambient temperature. Then the solid is separated off, washed with 1500 mL diethyl ether, and the isolated crystals are suspended in 1500 mL of dimethylformamide and combined with 126.73 mL (2.0 mol) of methyl iodide with stirring. The solution formed is left to stand for 24 hours at ambient temperature, then diluted with water to a total volume of 6 L, crystallized, suction filtered, washed with water, and dried. Yield: 167 g of white crystals (74% of theoretical yield); melting point: 82° C.

reactant | sodium | 0.95 mol, 21.75 g | [Na] | Na
reactant | ethanol | 1500 mL | C(C)O | C2H6O
reactant | xanthene-9-carboxylic acid | 0.95 mol, 214 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | methyl iodide | 2.0 mol, 126.73 mL | CI | CH3I
solvent | water | O | H2O
product | methyl xanthene-9-carboxylate | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)OC | C15H12O3
